Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:6],1.99320985315
[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][O:3][C:4][H:5],5.04650749741
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5],3.15843683294
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],1.99510961602
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],6.6150338501600014
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8]>>[C:1]#[C:2][C:5]([H:6])[C:7]#[C:8].[O:3][H:4],4.69163079919
[C:4]([H:5])#[C:6][C:7]([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-3.21618086238
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:3][H:4],4.68667236526
[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])=[C:7]([H:8])[C:9]([O:10])([H:11])[H:12],-0.0765998587513
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],0.767751042799
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[O:10][C:11]([H:12])[H:13],-0.008376816080270001
[H:10].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:11][H:12]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-4.3126596922300005
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9],2.3192670359900003
[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.24185720402
[C:5]([H:6])#[C:7][C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-1.1105686254
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[O:6],1.03293172439
[C:1]#[C:2][C:3]([H:4])([H:5])[C:8]([H:9])=[C:10][H:11].[C:6]([H:7])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.44774035301
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.32948276287
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.52899819821
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]#[C:11][H:12].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.54639683023
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.92811505102
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.7145488332709999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:16].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15],4.96155646593
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],2.08234368
[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.55723770661
[H:11].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.7066894815300007
[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.83130022492
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],1.76324010367
